US04622326
Wet MnO2 (110 g) was refluxed for 90 minutes in 1 L of toluene with a Dean-stark trap for the separation of water. This suspension was then cooled and the 4-chloro-1-ethyl-1H-pyrazolo-[3,4-b]pyridine-5-methanol (17.5 g, 82.7 mmole) was added in 50 ml of toluene. The reaction mixture was then stirred for 6 hours and filtered with the aid of a filter pad. The toluene was evaporated and the residue added again to 100 g of wet MnO2 freshly prepared in the above manner. After additional 4 hours the reaction was briefly warmed at 55° and then filtered again through a filter pad. The residue which remained after evaporation of the toluene was purified by preparative high performance liquid chromatography (10% ethyl acetate/hexane, 250 ml/min) to yield 11.70 g of 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxaldehyde, mp 89°-90° C.

reactant | water | O | H2O
reactant | 4-chloro-1-ethyl-1H-pyrazolo-[3,4-b]pyridine-5-methanol | 82.7 mmole, 17.5 g | ClC1=C2C(=NC=C1CO)N(N=C2)CC | C9H10ClN3O
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 110 g | O=[Mn]=O
product | 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxaldehyde | 11.70 g | ClC1=C2C(=NC=C1C=O)N(N=C2)CC | C9H8ClN3O
